US05356918
N-(3-Nitrooxypropyl)-2-oxothiazolidine-4-carboxamide (Compound No. 1-68)
A procedure similar to that described in Example 1 was repeated, but using 1.25 g of N-(3-nitrooxypropyl)amine nitrate and 1.0 g of 2-oxothiazolidine-4-carboxylic acid, to obtain 0.60 g of the title compound as pale yellow crystals, melting at 83°-850° C.

reactant | N-(3-nitrooxypropyl)amine nitrate | 1.25 g | [N+](=O)(O)[O-].[N+](=O)([O-])OCCCN
reactant | 2-oxothiazolidine-4-carboxylic acid | 1.0 g | O=C1SCC(N1)C(=O)O | C4H5NO3S
product | N-(3-Nitrooxypropyl)-2-oxothiazolidine-4-carboxamide | 0.60 g | [N+](=O)([O-])OCCCNC(=O)C1NC(SC1)=O | C7H11N3O5S
